US04835180
A 20 g portion of 4-benzyloxyaniline hydrochloride was dissolved in chloroform-methanol and made basic with a solution of 70 mL of 1.25N sodium hydroxide and 70 mL of water. The layers were separated, the aqueous phase extracted with chloroform, the chloroform extracts washed with saturated sodium chloride solution, and dried over anhydrous sodium sulfate. The solvent was evaporated to yield 17 g of 4-benzyloxyaniline. A solution of 2 g (0.01 mol) of 4-benzyloxyaniline, 2.26 ml (0.015 mol) of 7-bromoheptanenitrile and 7.6 g (0.05 mol) of cesium fluoride in 20 mL of DMF was stirred and heated at 100° C. for two hours. The reaction was cooled and poured into saturated sodium chloride solution and extracted with ether. The ether extracts were washed three times with saturated sodium chloride solution, dried over magnesium sulfate and concentrated to 2.9 g of oil. The oil was chromatographed on 100 g of silica gel using a gradient from 10-30% ethyl acetate in hexane. There was obtained 2.55 g (85%) of 7-[(4-benzyloxyphenyl)amino]heptanenitrile. The benzyloxy compound was treated with eight parts of 48% HBr at room temperature for 5 hours to yield impure 7-[(4-hydroxyphenyl)amino]heptanenitrile.

reactant | 4-benzyloxyaniline hydrochloride | Cl.C(C1=CC=CC=C1)OC1=CC=C(N)C=C1
reactant | sodium hydroxide | 1.25N, 70 mL | [OH-].[Na+]
reactant | water | 70 mL | O | H2O
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
product | 4-benzyloxyaniline | 17 g | C(C1=CC=CC=C1)OC1=CC=C(N)C=C1 | C13H13NO
